**************** Power Discrete MOSFET Electrical Circuit Model *****************
** Product Name: FCH47N60NF
** 600V N-Channel MOSFET FRFET
** Model Type: BSIM3V3
**-------------------------------------------------------------------------------
.SUBCKT FCH47N60NF 2 1 3    
*Nom Temp=25 deg C
Dbody 7 5    DbodyMOD
Dbreak 5 11  DbreakMOD
Ebreak 11 7 17 7 650
Lgate 1 9    1.183e-9
Ldrain 2 5   1.500e-9
Lsource 3 7  9.879e-10
RLgate 1 9   11.83
RLdrain 2 5  15.00
RLsource 3 7 9.879
Rgate 9 6    0.5
It 7 17      1
Rbreak 17 7  RbreakMOD 1
.MODEL RbreakMOD RES (TC1=1.25e-3 TC2=-1.65e-6)
.MODEL DbodyMOD D (IS=4.5e-12  N=1.0    RS=2.82e-3   TRS1=2.32e-3  TRS2=5.7e-6 
+ CJO=2.96e-8      M=0.78      VJ=0.48  TT=1.73e-7   XTI=3         EG=1.12)
.MODEL DbreakMOD D (RS=100e-3 TRS1=1.0e-3 TRS2=1e-6)
Rdrain 5 16 RdrainMOD 0.0515
.MODEL RdrainMOD RES (TC1=8.85e-3 TC2=2.85e-5)
M_BSIM3 16 6 7 7 Bsim3 W=8.5 L=2.0e-6 NRS=1
.MODEL  Bsim3 NMOS (LEVEL=7 VERSION=3.1 MOBMOD=3 CAPMOD=2 PARAMCHK=1 NQSMOD=0
+ TOX=800e-10     XJ=1.4e-6      NCH=1.3e17
+ U0=700          VSAT=1.5e5     DROUT=1.0
+ DELTA=0.1       PSCBE2=0       RSH=1.0e-3
+ VTH0=3.15       VOFF=-0.1      NFACTOR=1.1
+ LINT=1.2e-7     DLC=1.2e-7     FC=0.5
+ CGSO=1.28e-14   CGSL=0         CGDO=2.16e-14
+ CGDL=7.16e-10   CJ=0           CF=0
+ CKAPPA=0.02     KT1=-1.67      KT2=0
+ UA1=-1.15e-9    NJ=10)
.ENDS

******************** Power Discrete MOSFET Thermal Model ************************
** Package: TO-247
**-------------------------------------------------------------------------------
.SUBCKT FCH47N60NF_Thermal TH TL
CTHERM1 TH 6 1.44e-4
CTHERM2 6 5  1.08e-3
CTHERM3 5 4  8.64e-3
CTHERM4 4 3  9.02e-3
CTHERM5 3 2  9.92e-3
CTHERM6 2 TL 3.82e-2
RTHERM1 TH 6 1.80e-4
RTHERM2 6 5  2.20e-3
RTHERM3 5 4  8.00e-3
RTHERM4 4 3  4.70e-2
RTHERM5 3 2  8.38e-2
RTHERM6 2 TL 1.99e-1
.ENDS FCH47N60NF_Thermal 
**-------------------------------------------------------------------------------
** Creation: Mar.-16-2011   Rev.: 0.0
** Fairchild Semiconductor

